US07074819B2
Step 2) Synthesis of 4-{4-[4-(hydroxyethyloxy)phenyl]-1-butyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman
To a solution of 4-{4-[4-(t-butoxycarbonylmethyloxy)phenyl]-1-butyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman (744 mg, 1.226 mmol) in dry tetrahydrofuran (10 mi) was added lithium aluminum hydride (71.8 mg, 1.89 mmol) at 0° C. and stirred for 4 h at the room temperature. When the reaction was completed, 17% sodium hydroxide solution was added to the reaction solution until the white precipitate appeared, and then added ethyl acetate to the reaction mixture. The resulting mixture was filtered over celite and washed several times with ethyl acetate. The filtrate was concentrated under reduced pressure to give the title compound (658 mg, yield: quant.) as a colorless oil. The resulting compound was used in the next reaction without purification.

reactant | 4-{4-[4-(t-butoxycarbonylmethyloxy)phenyl]-1-butyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | 1.226 mmol, 744 mg | C(C)(C)(C)OC(=O)COC1=CC=C(C=C1)CCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C36H46O8
reactant | lithium aluminum hydride | 1.89 mmol, 71.8 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-{4-[4-(hydroxyethyloxy)phenyl]-1-butyl}-7-methoxymethyloxy-3-(4-methoxymethyloxyphenyl)-3-methylchroman | 658 mg, yield: quant. | OCCOC1=CC=C(C=C1)CCCCC1C(COC2=CC(=CC=C12)OCOC)(C)C1=CC=C(C=C1)OCOC | C32H40O7
